US04418079
To an ethereal solution (1000 ml) of lithium aluminum hydride (57.0 g) was added a solution of N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine (164.05 g) in ether (500 ml) with stirring under ice-cooling for 1.5 hours, and then stirring was continued for 5 hours at room temperature. Water was added to the cooled reaction mixture in order to decompose excess lithium aluminum hydride. The precipitates were filtered, and the filtrate was evaporated and distilled to afford N-(4-phenyl-4-hydroxy-2-trans-butenyl)-N,N-diethylamine, b.p., 116°-120° C./0.12 mmHg.

reactant | lithium aluminum hydride | 1000 ml, 57.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine | 164.05 g | C1(=CC=CC=C1)C(C#CCN(CC)CC)O | C14H19NO
reactant | Water | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
product | N-(4-phenyl-4-hydroxy-2-trans-butenyl)-N,N-diethylamine | C1(=CC=CC=C1)C(C/C=C/N(CC)CC)O | C14H21NO
